US05688798
A solution of 0.177 g (0.00057 mol) of 2-methyl-5-(4-phenethyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine in 10 ml of ethanol was treated with 0.16 ml (0.00057 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from methanol/diethyl ether. 0.110 g (51%) of 2-methyl-5-(4-phenethyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine dihydrochloride was obtained as white crystals; m.p. 235°-237°.

reactant | 2-methyl-5-(4-phenethyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine | 0.00057 mol, 0.177 g | CC1=NC=C(C(=N1)N)CN1CCC(=CC1)CCC1=CC=CC=C1 | C19H24N4
reactant | hydrochloric acid | 0.00057 mol, 3.5N, 0.16 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-methyl-5-(4-phenethyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine dihydrochloride | 0.110 g, 51% | Cl.Cl.CC1=NC=C(C(=N1)N)CN1CCC(=CC1)CCC1=CC=CC=C1 | InChI=1S/C19H24N4.2ClH/c1-15-21-13-18(19(20)22-15)14-23-11-9-17(10-12-23)8-7-16-5-3-2-4-6-16;;/h2-6,9,13H,7-8,10-12,14H2,1H3,(H2,20,21,22);2*1H
